US07220773B2
To a solution of 3-acetoxyphenol (3.04 g, 20 ml) in dimethylformamide were added calcium carbonate (2.76 g, 20 mmol) and ethyl bromoacetate (2.2 ml, 20 mmol), and the mixture was stirred for 2 hours at room temperature. The reaction was quenched by water and the mixture was extracted with ethyl acetate. The organic layer was washed with water, 10% aqueous citric acid solution, an aqueous saturated sodium hydrogencarbonate solution and an aqueous saturated sodium chloride solution, and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue was purified with silica gel chromatography (hexane:ethyl acetate=10:1) to give ethyl [3-(acetyloxy)phenoxy]acetate (3.30 g, 69%).

reactant | 3-acetoxyphenol | 20 ml, 3.04 g | C(C)(=O)OC=1C=C(C=CC1)O | C8H8O3
reactant | calcium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[Ca+2]
reactant | ethyl bromoacetate | 20 mmol, 2.2 ml | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl [3-(acetyloxy)phenoxy]acetate | 3.30 g, 69% | C(C)(=O)OC=1C=C(OCC(=O)OCC)C=CC1 | C12H14O5
